US04723002
(D) (2S-trans)[1-[[2-(3-Amino-2-oxo-1-imidazolidinyl)-2-oxoethoxy]hydroxyphosphinyl]-2-methyl-4-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
(2S-trans)[1-[[2-[3-[[(1,1-Dimethylethoxy)-carbonyl]amino]-2-oxo-1-imidazolidinyl]-2-oxoethoxy]hydroxyphosphinyl]-2-methyl-4-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester, monopotassium salt (5.9 g, 10 mmol) was treated at 0° C. sequentially with anisole (25 ml) and trifluoroacetic acid (60 ml), and the solution was stirred for six hours. The solution was evaporated in vacuo at ambient temperature and then co-evaporated with toluene (10 ml). The residue was triturated with hexane (50 ml) and diethyl ester (2×50 ml) to give a white solid. The solid was dissolved in water (10 ml) and the pH adjusted to 2.5 with sodium bicarbonate. This solution was chromatographed on a column of CHP20P reverse phase resin and eluted with an acetonitrile/water gradient. The appropriate fractions were combined and evaporated in vacuo to ~100 ml. This was lyophilized to give the title compound as a white solid, 2.520 g.

reactant | (2S-trans)[1-[[2-[3-[[(1,1-Dimethylethoxy)-carbonyl]amino]-2-oxo-1-imidazolidinyl]-2-oxoethoxy]hydroxyphosphinyl]-2-methyl-4-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | CC(C)(OC(=O)NN1C(N(CC1)C(COP(=O)(N1[C@H]([C@@H](C1=O)NC(OCC1=CC=CC=C1)=O)C)O)=O)=O)C | C22H30N5O10P
reactant | monopotassium | 10 mmol, 5.9 g | [K] | K
reactant | anisole | 25 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
product | (2S-trans)[1-[[2-(3-Amino-2-oxo-1-imidazolidinyl)-2-oxoethoxy]hydroxyphosphinyl]-2-methyl-4-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | NN1C(N(CC1)C(COP(=O)(N1[C@H]([C@@H](C1=O)NC(OCC1=CC=CC=C1)=O)C)O)=O)=O | C17H22N5O8P
